US06352977B1
(a) 3-(3,4-dimethoxy-benzylamino)-propionic acid ethyl ester
A mixture of 3,4-dimethoxy-benzylamine (100 g) and ethyl acrylate (65 ml) in ethanol (2L) and cylcohexane (1L) was stirred at room temperature for 20 hours then evaporated to give the title compound as a colourless oil (154 g). MS: 268 [MH]+.

reactant | 3,4-dimethoxy-benzylamine | 100 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | ethyl acrylate | 65 ml | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-dimethoxy-benzylamino)-propionic acid ethyl ester | 154 g | C(C)OC(CCNCC1=CC(=C(C=C1)OC)OC)=O | C14H21NO4
